US06326369B1
8-(4,5,6,7-Tetramethoxyindan-2-yl)octyl methanesulfonate
To a solution of 8-(4,5,6,7-tetramethoxyindan-2-yl)octanol (1.95 g) and triethylamine (1.11 ml) in acetonitrile (20 ml) was dropwise added methanesufonyl chloride (0.494 ml) with cooling with ice. After the stirring was continued for 15 min, saturated aqueous sodium bicarbonate was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, water, and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo to yield the entitled compound (2.36 g) as an oil.

reactant | 8-(4,5,6,7-tetramethoxyindan-2-yl)octanol | 1.95 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCCCCCO | C21H34O5
reactant | triethylamine | 1.11 ml | C(C)N(CC)CC | C6H15N
reactant | methanesufonyl chloride | 0.494 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 8-(4,5,6,7-Tetramethoxyindan-2-yl)octyl methanesulfonate | 2.36 g | CS(=O)(=O)OCCCCCCCCC1CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC | C22H36O7S
